US07135466B2
2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}-1-(4-phenylpiperidino)-1-ethanone
2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}acetic acid (100 mg), WSC.HCl (81 mg), and HOBT.H2O (57 mg) were dissolved in chloroform (3 ml) to prepare a solution. 4-Phenylpiperidine (54 mg) was then added to the solution, and the mixture was stirred at room temperature overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The extract was washed with saturated brine and was then dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by thin-layer chromatography using chloroform/methanol for development. Diethyl ether was added to the purification product, and the precipitated crystal was collected by filtration and was washed to give the title compound (42 mg, yield 30%).

reactant | 2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}acetic acid | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(OCC(=O)O)C=C1 | C18H16N2O6
reactant | WSC.HCl | 81 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-Phenylpiperidine | 54 mg | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 57 mg | O | H2O
product | 2-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenoxy}-1-(4-phenylpiperidino)-1-ethanone | 42 mg, yield 30% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(OCC(=O)N2CCC(CC2)C2=CC=CC=C2)C=C1 | C29H29N3O5
